US05945565
Preparation of 3,5-dichloro-4-methylbenzoyl chloride (Method IV)
A jacketed kettle was equipped with a chiller, overhead stirrer, thermometer, and connections to a chlorine tank and a caustic scrubber. The kettle was charged with the previously prepared 3-chloro-4-methylbenzoyl chloride (1 part) and dichloromethane (6.8 parts). Aluminum trichloride (0.8 parts) was added, and the resulting red-brown mixture was cooled with agitation to 3-5° C. Chlorine (0.37 parts) was introduced at a sufficient rate to keep the reaction temperature below 10° C. The reactor was held at 0-5° C. for 6 hours. The reaction mixture was purged with nitrogen and slowly quenched by transfering into an agitated and chilled hydrochloric acid solution (4.4 parts) while maintaining the temperature below 5° C. Agitation was stopped and the lower organic layer was recovered. The solvent was removed by distillation.

reactant | chlorine | ClCl | Cl2
reactant | 3-chloro-4-methylbenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1C | C8H6Cl2O
reactant | Aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,5-dichloro-4-methylbenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1C)Cl | C8H5Cl3O
